US08440679B2
To a solution of (4-Chloro-phenyl)-[6-(2-methyl-5-nitro-phenyl)-5,6,7,8-tetrahydro-pyrido[4,3-d]pyrimidin-2-yl]amine (100 mg, 0.25 mmol) in the mixed solvent of THF (5 ml) and methanol (5 ml) was added 10% Pd/C, and the reaction mixture was stirred for 12 hours at room temperature under a hydrogen balloon. The reaction mixture was filtered and the filtrate was concentrated under vacuum to give [6-(5-Amino-2-methyl-phenyl)-5,6,7,8-tetrahydro-pyrido[4,3-d]pyrimidin-2-yl]-(4-chloro-phenyl)amine [12]as a off white solid [Yield: 81.5 mg, 88.2%]

reactant | (4-Chloro-phenyl)-[6-(2-methyl-5-nitro-phenyl)-5,6,7,8-tetrahydro-pyrido[4,3-d]pyrimidin-2-yl]amine | 0.25 mmol, 100 mg | ClC1=CC=C(C=C1)NC=1N=CC2=C(N1)CCN(C2)C2=C(C=CC(=C2)[N+](=O)[O-])C | C20H18ClN5O2
reactant | THF | 5 ml | C1CCOC1 | C4H8O
catalyst | Pd/C | [Pd] | Pd
solvent | methanol | 5 ml | CO | CH4O
product | [6-(5-Amino-2-methyl-phenyl)-5,6,7,8-tetrahydro-pyrido[4,3-d]pyrimidin-2-yl]-(4-chloro-phenyl)amine | NC=1C=CC(=C(C1)N1CC2=C(N=C(N=C2)NC2=CC=C(C=C2)Cl)CC1)C | C20H20ClN5
